US08029979B2
Thiocyanato-acetophenone Functionalisation of Aminopropylsilylated Glass Surfaces
Bromoacetophenone-modified aminopropylsilylated glass surfaces (2.5×7.5 cm; Sigma, Silane-Prep™, S4651) (see Example 13) were coated with a 0.1M solution of sodium thiocyanate in ethanol and incubated for five hours at 50° C. The glass surfaces thus treated were then washed five times using respectively 30 mL of ethanol for 3 minutes each at room temperature. After washing three times for three minutes each using respectively 30 mL of DCM at room temperature, the glass surfaces were dried and stored at 4° C. until further use.

reactant | Bromoacetophenone | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | Silane | [SiH4] | H4Si
reactant | sodium thiocyanate | [S-]C#N.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | Thiocyanato-acetophenone | S(C#N)CC(=O)C1=CC=CC=C1 | C9H7NOS
